US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline and 3-(methanesulfonyl)benzoic acid to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-(methylsulfonyl)benzamide. MS (Q1) 387.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 3-(methanesulfonyl)benzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-(methylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)S(=O)(=O)C)=O)C1=NC=CC=C1 | C19H15ClN2O3S
